US05386050
in the same apparatus and procedures as EXAMPLE 1, 5.0 g (0.023 mole) of 3-phenyl-1,1-dichloro-1-silabutane, 5.8 g (0.07 mole) of 1-hexene, and 100 μl of 1% chloroplatinic acid in isopropanol were placed and reacted under the dry nitrogen atmosphere. Vacuum distillation of the reaction products gave 4.23 g (bp, 115°-8° C./0.6 mmHg) of 4,4-dichloro-2-phenyl-4-siladecane.

reactant | 3-phenyl-1,1-dichloro-1-silabutane | 0.023 mole, 5.0 g | C1(=CC=CC=C1)C(C[SiH](Cl)Cl)C | C9H12Cl2Si
reactant | 1-hexene | 0.07 mole, 5.8 g | C=CCCCC | C6H12
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 100 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 4,4-dichloro-2-phenyl-4-siladecane | 4.23 g | Cl[Si](CC(C)C1=CC=CC=C1)(CCCCCC)Cl | C15H24Cl2Si
